US06881844B2
A solution of 6-trifluoromethyl-1H-indole (2.0 g, 10.80 mmol) in tetrahydrofuran (10 mL) cooled to 0° C. was treated with trifluoroacetic anhydride (2.29 mL, 16.20 mmol). The reaction was stirred at 0° C. for 1 h and then allowed to warm to 25° C. where it was stirred for 16 h. At this time, the reaction was poured into water (150 mL) and was stirred at 25° C. for 5 min. The resulting precipitate was collected by filtration, washed with water (200 mL), and dried in vacuo to afford 2,2,2-trifluoro-1-(6-trifluoromethyl-1H-indol-3-yl)-ethanone (2.95 g, 97%) as a white solid: mp 250-251° C.; EI-HRMS m/e calcd for C11H5F6NO (M+) 281.0275, found 281.0266.

reactant | 6-trifluoromethyl-1H-indole | 10.80 mmol, 2.0 g | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
reactant | trifluoroacetic anhydride | 16.20 mmol, 2.29 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 150 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-1-(6-trifluoromethyl-1H-indol-3-yl)-ethanone | 2.95 g, 97% | FC(C(=O)C1=CNC2=CC(=CC=C12)C(F)(F)F)(F)F | C11H5F6NO
